US04734406
52 mg (0.17 mmol) of methyl 6-[1-chloro-1-(3-pyridyl) methyl]-2-naphthoate and 8 mg (0.18 mmol) of sodium hydride dispersion (55%) in 4 ml of absolute methanol are heated under reflux for 6 hours. After the reaction mixture has been evaporated, the residue is taken up in sodium bicarbonate solution, which is extracted with ethyl acetate. After the ethyl acetate phase has been dried and evaporated in vacuo, the residue is chromatographed on silica gel using ethyl acetate. 48.2 mg (94%) of methyl 6-[1-methoxy-1-(3-pyridyl)methyl]-2-naphthoate are obtained. RF (ethyl acetate/cyclohexane 1:1): 0.17.

reactant | methyl 6-[1-chloro-1-(3-pyridyl) methyl]-2-naphthoate | 0.17 mmol, 52 mg | ClC(C=1C=NC=CC1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C18H14ClNO2
reactant | sodium hydride | 0.18 mmol, 8 mg | [H-].[Na+]
reactant | methanol | 4 ml | CO | CH4O
product | methyl 6-[1-methoxy-1-(3-pyridyl)methyl]-2-naphthoate | 48.2 mg, 94% | COC(C=1C=NC=CC1)C=1C=C2C=CC(=CC2=CC1)C(=O)OC | C19H17NO3
